US07244730B2
(Step 1) Ethyl 5-bromo-4-(bromomethyl)-2-ethoxybenzoate
After dissolving ethyl 5-bromo-2-ethoxy-4-methylbenzoate (19.72 g) in carbon tetrachloride, azobisisobutyronitrile (1.13 g) was added and the mixture was heated to reflux for 30 minutes. N-bromosuccinimide was added and the mixture was further heated to reflux for 1 hour. The reaction mixture was filtered and the filtrate was concentrated. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (10.54 g) as a colorless oil.

reactant | ethyl 5-bromo-2-ethoxy-4-methylbenzoate | 19.72 g | BrC=1C(=CC(=C(C(=O)OCC)C1)OCC)C | C12H15BrO3
reactant | azobisisobutyronitrile | 1.13 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 5-bromo-4-(bromomethyl)-2-ethoxybenzoate | 10.54 g | BrC=1C(=CC(=C(C(=O)OCC)C1)OCC)CBr | C12H14Br2O3
